US04299831
A solution of 15.9 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride in 210 ml of ethyl acetate was added with stirring at 5°-8° C. under nitrogen to a solution of 3.57 g of 2-amino-oxazole and 4.3 g of triethylamine in 50 ml of ethyl acetate and after the temperature returned to room temperature, it stood overnight at that temperature. The mixture was vacuum filtered and the filtrate was washed and evaporated to dryness under reduced pressure. The 14.23 g of residue was triturated with 100 ml of N sodium hydroxide solution for 3 hours and was then diluted with 200 ml of water. The mixture was vacuum filtered and the filtrate was treated with activated carbon. The pH was adjusted to 1 by addition of N hydrochloric acid and the mixture was vacuum filtered. The recovered product was washed with water and dissolved in ethyl acetate. The solution was evaporated to dryness and the 8.77 g of product were crystallized twice from acetic acid to obtain 5.73 g (30.8% yield) of 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(oxazol-2-yl)-3-quinoline-carboxamide melting at 258° C.

reactant | 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride | 15.9 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)Cl)O)C(F)(F)F)(F)F | C12H4ClF6NO2
reactant | 2-amino-oxazole | 3.57 g | NC=1OC=CN1 | C3H4N2O
reactant | triethylamine | 4.3 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 210 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(oxazol-2-yl)-3-quinoline-carboxamide | 5.73 g, 30.8% yield | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)NC=1OC=CN1)O)C(F)(F)F)(F)F | C15H7F6N3O3
